US09062013B2
Ethyl trans-2-phenylspiro[2.5]octane-1-carboxylate
Cyclohexyltriphenylphosphonium bromide (12.8 g, 30 mmol) and ethyl cinnamate (5.29 g, 30 mmol) were reacted as described under General Procedure B to furnish the title compound (0.30 g, 4%) as a colorless oil. 1H NMR (300 MHz, CDCl3) δ 7.31-7.17 (m, 5H), 4.18 (q, J=7.0 Hz, 2H), 2.72 (d, J=5.9 Hz, 1H), 1.98 (d, J=5.9 Hz, 1H), 1.80-1.75 (m, 2H), 1.65-1.06 (m, 11H).

reactant | Cyclohexyltriphenylphosphonium bromide | 30 mmol, 12.8 g | [Br-].C1(CCCCC1)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | ethyl cinnamate | 30 mmol, 5.29 g | C(C=CC1=CC=CC=C1)(=O)OCC | C11H12O2
product | Ethyl trans-2-phenylspiro[2.5]octane-1-carboxylate | 0.30 g, 4% | C1(=CC=CC=C1)[C@H]1[C@@H](C12CCCCC2)C(=O)OCC | C17H22O2
